US08048862B2
Preparation of 4-Isopropyl-thiazole-2-carboxylic acid
Lithium hydroxide monohydrate (0.947 g, 22.6 mmol., 1.1 eq.) was added to a solution of ethyl 4-isopropyl-thiazole-2 carboxylate (4.08 g, 20.5 mmol., 1.0 eq.) in tetrahydrofuran (45 mL) and methanol (15 mL). The reaction mixture was stirred at ambient temperature for 15 hours. LCMS analysis of the reaction mixture showed a small amount of methyl ester remaining (trans-esterification from ethyl to methyl ester occurred) so lithium hydroxide monohydrate (86 mg, 2.0 mmol., 0.1 eq.) was added and the reaction mixture stirred for a further 3 hours. The reaction mixture was diluted with water (15 mL) and washed with diethyl ether (40 mL). The aqueous phase was cooled to 0° C., and acidified to pH 3 by slow addition of 1M hydrochloric acid. The aqueous layer was extracted with diethyl ether (3×50 mL). The organic extracts were combined, dried over sodium sulphate, filtered and the solvent removed under vacuum to give a mixture of the title product 2.5 g (71%) and 0.6 g of the decarboxylated by product. The mixture was used in the next step without further purification. 1H NMR (250 MHz, CDCl3) δ ppm 7.29 (s, 1 H) 3.15-3.30 (spt, J=6.85 Hz, 1 H), 1.35 (d, J=6.85 Hz, 6 H). LC-MS: 72% (UV), tR 1.21 min, m/z [M+1]+ 171.95.

reactant | Lithium hydroxide monohydrate | 22.6 mmol, 0.947 g, 1.1 eq. | O.[OH-].[Li+]
reactant | ethyl 4-isopropyl-thiazole-2 carboxylate | 20.5 mmol, 4.08 g, 1.0 eq. | C(C)(C)C=1N=C(SC1)C(=O)OCC | C9H13NO2S
reactant | lithium hydroxide monohydrate | 2.0 mmol, 86 mg, 0.1 eq. | O.[OH-].[Li+]
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 15 mL | O | H2O
product | 4-Isopropyl-thiazole-2-carboxylic acid | 2.5 g, 71% | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
